US05145937
Adipoyl chloride (45.8 g, 0.25 mol) was added over a 30-45 minute period to a mechanically stirred suspension of aluminum chloride (83.3 g, 0.625 mol) in fluorobenzene (235 ml, 2.5 mol) maintained at 5°-10° C. The yellow slurry was allowed to warm to room temperature and was stirred overnight. The reaction mixture was poured onto approximately 1000 g of ice containing 100 ml of concentrated hydrochloric acid. The resulting suspension was separated by decantation and washed several times with water. The organic layer was distilled to remove excess fluorobenzene and the solid residue collected by filtration, washed with water, and dried at 110° C. The crude solid was recrystallized from approximately 1000 ml of toluene to afford 57.0 g (76% yield) of 1,4-bis(4-fluorobenzoyl) butane; mp 165°-167° C.; 'H NMR (CDCl3) δ1.2-2.1 (m, 4H, CH2), 3.00 (t, 4H, O=CCH2 , J=7.0 Hz), 7.0-8.2 (m, 8H, aromatic). Anal. Calcd. for C18H16F2O2 : C, 71.51%; H, 5.33%; F, 12.57%. Found: C, 71.68%; H, 5.38%; F, 12.78%.

reactant | Adipoyl chloride | 0.25 mol, 45.8 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | aluminum chloride | 0.625 mol, 83.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 2.5 mol, 235 ml | FC1=CC=CC=C1 | C6H5F
reactant | hydrochloric acid | Cl | ClH
product | 1,4-bis(4-fluorobenzoyl) butane | 57.0 g, 76% yield | FC1=CC=C(C(=O)CCCCC(C2=CC=C(C=C2)F)=O)C=C1 | C18H16F2O2
